US04677098
A solution of 18.9 g of 4-nitrobutyric acid t-butyl ester, 8.6 g of methyl acrylate, 0.2 g triethyl amine in 200 ml of toluene is stirred and treated dropwise with 27.4 g of phenyl isocyanate. The mixture is stirred for 72 hours at room temperature and heated at 90° C. for two hours. The mixture is cooled, filtered to remove the diphenyl urea, and concentrated under reduced pressure. The resulting oil is chromatographed on SiO2 (elution with hexane:ethylacetate; 75:25) to yield 4,5-dihydro-5-(methoxycarbonyl)-3-isoxazolepropanoic acid t-butyl ester as a colorless oil. NMR (CDCl3) and 5.00 (t, J=9 Hz, 1H), 3.77 (s, 3HO, 3.28 (d, J=9 Hz, 2H), 2.58 (s, 4H), 1.42 (s, 9H). IR (cm-1) 2955, 2910, 1728, 1545, 1437, 1385, 1370, 1340, 12155, 1215.

reactant | 4-nitrobutyric acid t-butyl ester | 18.9 g | C(C)(C)(C)OC(CCC[N+](=O)[O-])=O | C8H15NO4
reactant | methyl acrylate | 8.6 g | C(C=C)(=O)OC | C4H6O2
reactant | triethyl amine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 27.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-5-(methoxycarbonyl)-3-isoxazolepropanoic acid t-butyl ester | C(C)(C)(C)OC(CCC1=NOC(C1)C(=O)OC)=O | C12H19NO5
